US08008498B2
5-(2-Methoxyphenylaminomethyl)-6-(2-methoxy-4-propylsulfonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 2-1)
6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 4-1, 25.0 mg, mmol) was dissolved in methylene dichloride (0.5 mL), triethylamine (16.2 μL, 0.116 mmol) and 1-propanesulfonyl chloride (6.5 μL, 0.058 mmol) were added thereto, and then the mixture was stirred under ice cooling for 30 minutes. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (26.8 mg) as a colorless amorphous product. (Yield 86%)

reactant | 6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC)OC | C27H30N2O3
reactant | triethylamine | 0.116 mmol, 16.2 μL | C(C)N(CC)CC | C6H15N
reactant | 1-propanesulfonyl chloride | 0.058 mmol, 6.5 μL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene dichloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Methoxyphenylaminomethyl)-6-(2-methoxy-4-propylsulfonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 26.8 mg, Yield 86% | COC1=C(C=CC=C1)NCC1=C2C(=CC(NC2=CC=C1C1=C(C=C(C=C1)OS(=O)(=O)CCC)OC)(C)C)C | C30H36N2O5S
